US06960580B2
4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-ylamine (0.300 g) was dissolved in THF (5 ml) with stirring and then cooled in ice-water bath to below 0° C., to this added 48% aqueous fluoboric acid (0.7 ml) and mixture stirred for 10 mins. A solution of sodium nitrite (0.10 sg) in water (1 ml) was added keeping the temperature below 10° C. The reaction mixture was the stirred for 1 hr, during that time yellow solid precipitated. This solid was filtered, dried to give 4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-diazonium tetrafluoroborate (0.250 g, 80%)

reactant | 4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-ylamine | 0.300 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1)N | C18H24ClN3O2
reactant | fluoboric acid | 0.7 ml | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-diazonium tetrafluoroborate | 0.250 g, 80% | F[B-](F)(F)F.ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1)[N+]#N | InChI=1S/C18H22ClN4O2.BF4/c1-24-16-10-13-14(21-12-15(22-20)18(13)19)11-17(16)25-9-5-8-23-6-3-2-4-7-23;2-1(3,4)5/h10-12H,2-9H2,1H3;/q+1;-1
